US05922717
b) N--Acetyl-N-(4-piperidinyl)-glycine methyl ester hydrochloride
Prepared from N-acetyl-N-[1-benzyl-4-piperidinyl]glycine methyl ester hydrochloride by exhaustive hydrogenation over palladium-on-charcoal (10%).

reactant | N-acetyl-N-[1-benzyl-4-piperidinyl]glycine methyl ester hydrochloride | Cl.COC(CN(C1CCN(CC1)CC1=CC=CC=C1)C(C)=O)=O
catalyst | palladium-on-charcoal | [Pd] | Pd
product | N--Acetyl-N-(4-piperidinyl)-glycine methyl ester hydrochloride | Cl.COC(CN(C1CCNCC1)C(C)=O)=O | InChI=1S/C10H18N2O3.ClH/c1-8(13)12(7-10(14)15-2)9-3-5-11-6-4-9;/h9,11H,3-7H2,1-2H3;1H
